US04599335
533 g of 3-(4-tert.butylphenyl)-2-methylpropyl chloride and 714 g of 4-methylpiperazine were stirred for 7 hours at 140° C. and then cooled to +10° C. in an ice bath, and 400 ml of 50% strength sodium hyroxide solution were added slowly, followed by the addition of 500 ml of ether. The organic phase was separated off, dried over sodium hydroxide and distilled to give 640 g of 1-methyl-4-[3-(4-tert.-butylphenyl)-2-methylpropyl]-piperazine of boiling point 135°-140° C./0.3 mbar.

reactant | 3-(4-tert.butylphenyl)-2-methylpropyl chloride | 533 g | C(C)(C)(C)C1=CC=C(C=C1)CC(CCl)C | C14H21Cl
reactant | 4-methylpiperazine | 714 g | CN1CCNCC1 | C5H12N2
reactant | sodium hyroxide | [OH-].[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-methyl-4-[3-(4-tert.-butylphenyl)-2-methylpropyl]-piperazine | 640 g | CN1CCN(CC1)CC(CC1=CC=C(C=C1)C(C)(C)C)C | C19H32N2
